US05541343
(3S,5S)-5-[(7-Amidino-9-hydroxy-2-fluorenyl)oxymethyl]-3-carboxymethyl-1-(3-phenylpropyl)-2-pyrrolidinone
0.77 g of (3S,5S)-5-[(7-amidino-9-keto-2-fluorenyl)oxymethyl]-3-carboxymethyl-1-(3-phenylpropyl)-2-pyrrolidinone are dissolved in 15 ml of glacial acetic acid, 0.4 g of 10% palladium/charcoal are added and the mixture is hydrogenated for 24 hours at ambient temperature under 3 bars of hydrogen pressure. The catalyst is filtered off, the filtrate is evaporated down and purified by chromatography over silica gel (eluant: methylene chloride/methanol/glacial acetic acid =3:1:0.1). The crude product obtained is triturated with ether, filtered off and taken up in 50 ml of a mixture of glacial acetic acid and water (1:2). This solution is concentrated until crystallisation begins (about 5 ml). The crystals precipitated are washed with water, acetone and ether.

reactant | (3S,5S)-5-[(7-amidino-9-keto-2-fluorenyl)oxymethyl]-3-carboxymethyl-1-(3-phenylpropyl)-2-pyrrolidinone | 0.77 g | C(N)(=N)C1=CC=C2C=3C=CC(=CC3C(C2=C1)=O)OC[C@@H]1C[C@H](C(N1CCCC1=CC=CC=C1)=O)CC(=O)O | C30H29N3O5
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | 0.4 g | [Pd] | Pd
product | (3S,5S)-5-[(7-Amidino-9-hydroxy-2-fluorenyl)oxymethyl]-3-carboxymethyl-1-(3-phenylpropyl)-2-pyrrolidinone | C(N)(=N)C1=CC=C2C=3C=CC(=CC3C(C2=C1)O)OC[C@@H]1C[C@H](C(N1CCCC1=CC=CC=C1)=O)CC(=O)O | C30H31N3O5
